US07960567B2
4-Nitro-5-chloroindazole (22.4).
To 4-chloro-2-methyl-3-nitroaniline (1.63 g, 8.8 mmol) dissolved in acetic acid (75 mL) at room temperature was added a 2M aqueous solution of sodium nitrite (4.4 mL). The suspension was then diluted with acetic acid (100 mL) and then heated at reflux for 4 h. The mixture was then cooled to room temperature and concentrated under reduced pressure. The residue was then partitioned between ethyl acetate (100 mL) and saturated aqueous sodium hydrogen carbonate solution (100 mL). The separated organic layer was then washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. Column chromatography of the reside (hexane/ethyl acetate (2:1) afforded the desired product. 1H NMR (500 MHz) (DMSO-d6) δ 8.32 (s, 1H); 7.95 (d, J=8.7 Hz, 1H); 7.68 (d, J=8.7 Hz, 1H).

reactant | 4-chloro-2-methyl-3-nitroaniline | 8.8 mmol, 1.63 g | ClC1=C(C(=C(N)C=C1)C)[N+](=O)[O-] | C7H7ClN2O2
reactant | sodium nitrite | 4.4 mL | N(=O)[O-].[Na+]
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 4-Nitro-5-chloroindazole | [N+](=O)([O-])C1=C2C=NNC2=CC=C1Cl | C7H4ClN3O2
